US07572811B2
4-[4-(4-Chloro-3-trifluoromethyl-benzyloxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (1 eq) is dissolved in 10% TFA/DCM and stirred for 30 minutes. After concentration, the residue is re-dissolved in DCM and washed with saturated NaHCO3 and brine. The organic layer is dried over Na2SO4 and concentrated. The residue is then dissolved in MeOH and t-butyl acrylate (2 eq) is added. The resulting solution is heated at 90° C. in microwave for 10 minutes. After concentration, purification by flash column chromatography (80% EtOAc/hexane) gave 3-{4-[4-(4-Chloro-3-trifluoromethyl-benzyloxy)-phenyl]-piperidin-1-yl}-propionic acid tert-butyl ester. [MS: (ES+) 498.2 (M+1)+].

reactant | 4-[4-(4-Chloro-3-trifluoromethyl-benzyloxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 1 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)C(F)(F)F | C24H27ClF3NO3
reactant | t-butyl acrylate | 2 eq | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-{4-[4-(4-Chloro-3-trifluoromethyl-benzyloxy)-phenyl]-piperidin-1-yl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN1CCC(CC1)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C26H31ClF3NO3
